US07781435B2
(S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-N-{1-[2-(2,2-dimethyl-propylamino)-1,1-dimethyl-ethyl]-1H-imidazol-4-yl}-2-phenyl-acetamide
2-methyl-N-neopentyl-2-(4-nitro-1H-imidazol-1-yl)propan-1-amine (U.S. Ser. No. 11/078,898 filed Mar. 11, 2005) was reduced and coupled with (S)-2-(2-(3,5-difluorophenyl)acetamido)-2-phenylacetic acid to afford the title compound: MS 512 m/z (M+1).

reactant | 2-methyl-N-neopentyl-2-(4-nitro-1H-imidazol-1-yl)propan-1-amine | CC(CNCC(C)(C)C)(C)N1C=NC(=C1)[N+](=O)[O-] | C12H22N4O2
reactant | (S)-2-(2-(3,5-difluorophenyl)acetamido)-2-phenylacetic acid | FC=1C=C(C=C(C1)F)CC(=O)N[C@H](C(=O)O)C1=CC=CC=C1 | C16H13F2NO3
product | (S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-N-{1-[2-(2,2-dimethyl-propylamino)-1,1-dimethyl-ethyl]-1H-imidazol-4-yl}-2-phenyl-acetamide | FC=1C=C(C=C(C1)F)CC(=O)N[C@H](C(=O)NC=1N=CN(C1)C(CNCC(C)(C)C)(C)C)C1=CC=CC=C1 | C28H35F2N5O2
